* source 021
.EXTERNAL OUTPUT VO1
V_V2         N00463 0 30Vdc
C_C1         VB1 N00825  39u  
C_C2         VC1 VO1  39u  
C_C3         N00463 0  0.1u  
C_C4         N00463 0  120u  
R_R1         VB1 N00463  150k  
R_R2         0 VB1  5.1k  
R_R3         VC1 N00463  3k  
R_R4         0 VE1  75  
R_R5         0 VO1  1k  
V_V1         N00825 0 DC 0 AC 1
+SIN 0 50m 5.4k 0 0 0
Q_Q1         VC1 VB1 VE1 Q2N2222
